US04012380
7-(2-Thienylacetamido)-3-propionyl-3-cephem-4-carboxylic acid.
To a cooled (5° C.), stirred slurry of 0.168 g. of benzhydryl 7-(2-thienylacetamido)-3-propionyl-3-cephem-4-carboxylate in 2 ml. of anisole was added 1 ml. of cold trifluoroacetic acid. The reaction mixture was allowed to stir with cooling for 20 minutes after which time 30 ml. of n-heptane was added. After the resulting solution was evaporated in vacuo to a low volume to remove excess trifluoroacetic acid, an additional 30 ml. of n-heptane was added. After stirring the reaction mixture in an ice bath for five minutes the mixture was filtered. The solid was dissolved in acetone, and the acetone solution was filtered. The filtrate was evaporated to low volume and subsequently transferred to a separatory funnel with the aid of cold ethyl acetate. The ethyl acetate solution was extracted twice with cold aqueous sodium bicarbonate solution. The aqueous extracts were combined, layered with cold ethyl acetate, and acidified with cold 1N.HCl. The organic layer was separated and washed twice with brine and dried over anhydrous sodium sulfate. Evaporation in vacuo to dryness provided 0.108 g. (92 percent) of the title product as a white solid:

reactant | benzhydryl 7-(2-thienylacetamido)-3-propionyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(CC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O5S2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-heptane | CCCCCCC | C7H16
product | 7-(2-Thienylacetamido)-3-propionyl-3-cephem-4-carboxylic acid | 92 percent | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(CC)=O)C(=O)O)C1=O | C16H16N2O5S2
